US06541505B1
1-(4-{4-[2-(3-Cyano-1H-indol-5-yl)ethylcarbamoyl]phenyl}pyrimidin-2-yl)pyrrolidine-2-carboxylic acid amide.
Using pyrrolidine-2-carboxylic acid amide. and N-[2-(3-Cyano-1H-indol-5-yl)-ethyl]-4-[2-chloro-pyrimidin-4-yl]-benzamide (reference example 1az) as substrates. MS (ion spray) m/z 480 (M+H)+.

reactant | pyrrolidine-2-carboxylic acid amide | N1C(CCC1)C(=O)N | C5H10N2O
reactant | N-[2-(3-Cyano-1H-indol-5-yl)-ethyl]-4-[2-chloro-pyrimidin-4-yl]-benzamide | C(#N)C1=CNC2=CC=C(C=C12)CCNC(C1=CC=C(C=C1)C1=NC(=NC=C1)Cl)=O | C22H16ClN5O
product | 1-(4-{4-[2-(3-Cyano-1H-indol-5-yl)ethylcarbamoyl]phenyl}pyrimidin-2-yl)pyrrolidine-2-carboxylic acid amide | C(#N)C1=CNC2=CC=C(C=C12)CCNC(=O)C1=CC=C(C=C1)C1=NC(=NC=C1)N1C(CCC1)C(=O)N | C27H25N7O2
